US07897597B2
N-[2-(4-Amino-8-benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]methanesulfonamide (1.16 g, 2.33 mmol) was dissolved in 50 mL of ethanol and 10% palladium on carbon (0.46 g) was added. The mixture was shaken overnight under 50 psi (3.4×105 Pa) of hydrogen. Dichloromethane (100 mL) and methanol (100 mL) were added and reaction was filtered through CELITE filter agent. The filter cake was washed with 200 mL of 1:1 dichloromethane:methanol. The filtrate was concentrated under reduced pressure to give a white solid. The solid was precipitated from a minimum amount of ethanol and then redissolved in dichloromethane containing a minimum amount of methanol. Aqueous ammonium hydroxide was added. The two phases were mixed by shaking and then separated. The organic fraction was discarded and the aqueous fraction was extracted with four portions of dichloromethane followed by two portions of ethyl acetate. The combined organic fractions were concentrated. The volume of the aqueous fraction was reduced, and a precipitate formed. The aqueous fraction was made basic by the addition of aqueous ammonium hydroxide and the resulting precipitate was recovered by filtration. The solid precipitate was combined with the residue from the organic fraction to give 0.75 g of crude product. This material was purified by column chromatography on a HORIZON HPFC system. A silica gel cartridge was used with the eluent being a gradient of 30-50% CMA in chloroform to provide 0.57 g of N-[2-(4-amino-2-ethoxymethyl-8-hydroxy-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]methanesulfonamide as a white powder, m.p. 252-254° C.

reactant | N-[2-(4-Amino-8-benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]methanesulfonamide | 2.33 mmol, 1.16 g | NC1=NC=2C=CC(=CC2C2=C1N=C(N2CC(C)(C)NS(=O)(=O)C)COCC)OCC2=CC=CC=C2 | C25H31N5O4S
reactant | hydrogen | [H][H] | H2
reactant | Dichloromethane | 100 mL | ClCCl | CH2Cl2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.46 g | [Pd] | Pd
solvent | methanol | 100 mL | CO | CH4O
product | N-[2-(4-amino-2-ethoxymethyl-8-hydroxy-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]methanesulfonamide | 0.57 g | NC1=NC=2C=CC(=CC2C2=C1N=C(N2CC(C)(C)NS(=O)(=O)C)COCC)O | C18H25N5O4S
